US07750003B2
Phenyl N-[4-[4-(ethylsulfonylmethyl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]carbamate
Phenyl chloroformate (0.207 mL, 1.65 mmol) was added dropwise to 4-[4-(ethylsulfonylmethyl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]aniline (620 mg, 1.65 mmol) and sodium bicarbonate (208 mg, 2.47 mmol) in dioxane (15 mL) under nitrogen. The resulting suspension was stirred at RT for 2 hours. The reaction mixture was evaporated to dryness and the residue partitioned between ethyl acetate (200 mL) and water (200 mL). The organic layer was dried (MgSO4), filtered and evaporated to give the desired material as a white solid (885 mg).

reactant | Phenyl chloroformate | 1.65 mmol, 0.207 mL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 4-[4-(ethylsulfonylmethyl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]aniline | 1.65 mmol, 620 mg | C(C)S(=O)(=O)CC1=NC(=NC(=C1)N1[C@H](COCC1)C)C1=CC=C(N)C=C1 | C18H24N4O3S
reactant | sodium bicarbonate | 2.47 mmol, 208 mg | C([O-])(O)=O.[Na+]
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | Phenyl N-[4-[4-(ethylsulfonylmethyl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]carbamate | 885 mg | C(C)S(=O)(=O)CC1=NC(=NC(=C1)N1[C@H](COCC1)C)C1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C25H28N4O5S
